US07576089B2
1-[3-(Trifluoromethyl)phenyl]piperidine-4-carboxylic Acid
Methyl 1-[3-(trifluoromethyl)phenyl]piperidine-4-carboxylate (0.9 g, 3 mmol) was treated with the mixture of 2 M of sodium hydroxide in water (10 mL), THF (10 mL) and methanol (10 mL) at 50° C. for 1 h. After being neutralized with concentrated HCl (pH=3), the solution was concentrated. The resulting residue was azeotropically treated with benzene for 3 times to give the title compound which was used for the next reaction without purification. MS (M+H) 274.1.

reactant | Methyl 1-[3-(trifluoromethyl)phenyl]piperidine-4-carboxylate | 3 mmol, 0.9 g | FC(C=1C=C(C=CC1)N1CCC(CC1)C(=O)OC)(F)F | C14H16F3NO2
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
reactant | HCl | pH=3 | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
product | 1-[3-(Trifluoromethyl)phenyl]piperidine-4-carboxylic Acid | FC(C=1C=C(C=CC1)N1CCC(CC1)C(=O)O)(F)F | C13H14F3NO2
